US04140775
In the manner given in Example 1C, 1-(p-fluorophenyl)-4-[(4-aminophenyl)methyl]piperazine and 4,7-dichloroquinoline are reacted together at reflux to give 4-[[4-[[4-(p-fluorophenyl)-1-piperazinyl]methyl]phenyl]amino]-7-chloroquinoline.

reactant | 1-(p-fluorophenyl)-4-[(4-aminophenyl)methyl]piperazine | FC1=CC=C(C=C1)N1CCN(CC1)CC1=CC=C(C=C1)N | C17H20FN3
reactant | 4,7-dichloroquinoline | ClC1=CC=NC2=CC(=CC=C12)Cl | C9H5Cl2N
product | 4-[[4-[[4-(p-fluorophenyl)-1-piperazinyl]methyl]phenyl]amino]-7-chloroquinoline | FC1=CC=C(C=C1)N1CCN(CC1)CC1=CC=C(C=C1)NC1=CC=NC2=CC(=CC=C12)Cl | C26H24ClFN4
